US06441017B1
Step C: 1,2-Dihydro-8-nitroquinolin-2-one
Methyl 2-acetamido-3-nitrocinnamate, as described above in Step B, (5.76 g, 21.8 mmol) was dissolved in 3 N aqueous HCl (220 mL) and the solution was heated at reflux for 72 hours, cooled, neutralized with NaHCO3 and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | Methyl 2-acetamido-3-nitrocinnamate | C(C)(=O)NC1=C(C=CC(=O)OC)C=CC=C1[N+](=O)[O-] | C12H12N2O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 3 N, 220 mL | Cl | ClH
product | 1,2-Dihydro-8-nitroquinolin-2-one | [N+](=O)([O-])C=1C=CC=C2C=CC(NC12)=O | C9H6N2O3
